US07825068B2
Preparation of tert-butyl {2-[1-methyl-4-(trifluoromethyl)-1H-pyrazol-3-yl]ethyl}carbamate
The [1-methyl-4-(trifluoromethyl)-1H-pyrazol-3-yl]acetonitrile (4.76 mmol, 0.90 g), the di-terbutyl carbonate (9.52 mmol, 2.08 g) and nickel chloride hexahydrate (4.77 mmol, 1.13 g) are added to methanol (10 ml) at room temperature. Sodium borohydride (13.1 mmol, 0.49 g). is added portionwise to the reaction mixture. The reaction mixture is allowed to room temperature and stirred for three hours.

reactant | [1-methyl-4-(trifluoromethyl)-1H-pyrazol-3-yl]acetonitrile | 4.76 mmol, 0.90 g | CN1N=C(C(=C1)C(F)(F)F)CC#N | C7H6F3N3
reactant | di-terbutyl carbonate | 9.52 mmol, 2.08 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | Sodium borohydride | 13.1 mmol, 0.49 g | [BH4-].[Na+]
catalyst | nickel chloride hexahydrate | 4.77 mmol, 1.13 g | O.O.O.O.O.O.[Ni](Cl)Cl
solvent | methanol | 10 ml | CO | CH4O
product | tert-butyl {2-[1-methyl-4-(trifluoromethyl)-1H-pyrazol-3-yl]ethyl}carbamate | CN1N=C(C(=C1)C(F)(F)F)CCNC(OC(C)(C)C)=O | C12H18F3N3O2
